US05223506
Using the procedure of Example 1, 5-methoxy-6-(2-hydroxyethoxy)indan-1-one (222 mg, 1 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (255 mg, 1 mmol) to yields 7-(2-hydroxyethoxy)-8-methoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline (239 mg, 68% of theory).

reactant | 5-methoxy-6-(2-hydroxyethoxy)indan-1-one | 1 mmol, 222 mg | COC=1C=C2CCC(C2=CC1OCCO)=O | C12H14O4
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 1 mmol, 255 mg | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 7-(2-hydroxyethoxy)-8-methoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | 239 mg, 68% | OCCOC=1C(=CC=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C1)OC | C20H17NO5
